US07119207B2
1-Methanesulfonyl-6-methoxy-3,4-dihydro-1H-quinolin-2-one
To a flame dried round bottom flask equipped with a nitrogen cap was placed 87 mg (2.17 mmol) of 60% sodium hydride in mineral oil and 15 ml of dimethylformaminde (DMF). The mixture was cooled to 0° C. and was treated with 350 mg (1.97 mmol) of 6-Methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline (Preparation 2) in the minimum amount of DMF. The reaction mixture was stirred for 0.5 hours at 0° C. and was then treated with 226 mg (1.97 mmol) mesyl chloride. The mixture was slowly allowed to warm to room temperature and stirred for 16 hours. The reaction mixture was quenched by the addition of 30 ml of saturated aqueous sodium bicarbonate solution and the mixture was extracted with methylene chloride (3×30 ml). The combined organics were washed with brine, dried over sodium sulfate and evaporated in vacuo. The crude oil was purified by silica gel chromatography eluting with 1/1 ethyl acetate/hexane to afford a light yellow oil in 35% yield (177 mg). Mass spectrum APCI m/e 256 (p+1).

reactant | sodium hydride | 2.17 mmol, 87 mg | [H-].[Na+]
reactant | 6-Methoxy-2-oxo-1,2,3,4-tetrahydro-quinoline | 1.97 mmol, 350 mg | COC=1C=C2CCC(NC2=CC1)=O | C10H11NO2
reactant | mesyl chloride | 1.97 mmol, 226 mg | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Methanesulfonyl-6-methoxy-3,4-dihydro-1H-quinolin-2-one | 35% yield | CS(=O)(=O)N1C(CCC2=CC(=CC=C12)OC)=O | C11H13NO4S
